US07947691B2
1-(4′-Acetyl-biphenyl-4-ylmethyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
1-(4-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was treated with 4-acetylphenylboronic acid according to general procedure C. The title compound was obtained as a yellow solid following purification by preparative HPLC. 1H NMR (d6-DMSO, 300 MHz) δ 2.63 (s, 3H); 5.80 (s, 2H); 7.70-8.20 (m, 12H); Ret. time=2.89, m/z=441.0.

reactant | 1-(4-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | BrC1=CC=C(CN2C(N(C(C3=C2C2=C(S3)C=CC=C2)=O)O)=O)C=C1 | C17H11BrN2O3S
reactant | 4-acetylphenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 1-(4′-Acetyl-biphenyl-4-ylmethyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CN1C(N(C(C2=C1C1=C(S2)C=CC=C1)=O)O)=O | C25H18N2O4S
